US08648038B2
Ethyl 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}hex-4-ynoate
To a solution of 200 mg (0.75 mmol) of ethyl 3-(4-aminophenyl)hex-4-ynoate, 258 mg (2.24 mmol) of N-ethylmorpholine, 126 mg (0.82 mmol) of HOBt hydrate and 128 mg (0.82 mmol) of EDAC in 3 ml of DMF was added a solution of 202 mg (0.74 mmol) of 2-(3-isopropylphenoxy)propionic acid in 2.5 ml of DMF. After 72 h at room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. This gave 156 mg of ethyl 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}hex-4-ynoate.

reactant | ethyl 3-(4-aminophenyl)hex-4-ynoate | 0.75 mmol, 200 mg | NC1=CC=C(C=C1)C(CC(=O)OCC)C#CC | C14H17NO2
reactant | N-ethylmorpholine | 2.24 mmol, 258 mg | C(C)N1CCOCC1 | C6H13NO
reactant | HOBt hydrate | 0.82 mmol, 126 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDAC | 0.82 mmol, 128 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(3-isopropylphenoxy)propionic acid | 0.74 mmol, 202 mg | C(C)(C)C=1C=C(OC(C(=O)O)C)C=CC1 | C12H16O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 3-{4-[2-(3-isopropylphenoxy)propionylamino]phenyl}hex-4-ynoate | C(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(CC(=O)OCC)C#CC)C)C=CC1 | C26H31NO4
